US05696290
Cyclohexyl-diethyl-diisopropylguanidine
Phosphorus oxychloride (78.2 g, 0.51 mol) is added dropwise over 1 hour period to a toluene (250 ml) solution of cyclohexyl-diethylurea (99 g, 0.5 mol). The reaction is stirred overnight at room temperature. Diisopropylamine (101 g, 1.0 mol). is added dropwise for over a 1 hour period, then stirred 2 hours at room temperature. The reaction mixture is poured into water (300 ml). The water layer is extracted with toluene (3×100 ml) and the toluene layers are discarded. Sodium hydroxide (120 g, 3 mol) is slowly added to the aqueous layer in an ice-water bath. Two layers formed and the aqueous layer is extracted with diethylether (2×100 ml). The organic layer and extracts are combined and dried over Na2CO3, filtered and concentrated. The residue is further distilled under vacuum (ca, 0.3-0.5 torr) collecting product, cyclohexyl-diethyl-diisopropylguanidine, at 137°-140° C. (95 g, 68%) of 99% purity as judged by gas chromatography. 1H NMR (CDCl3) δ 3.57 (m, 1H), 3.36 (m, 1H), 3.21 (q, 2H), 2.94 (q, 2H, 3.12 (m, 1H0, 2.93 (q, 2H), 1.13-1.77 (m, 10H), 1.20 (d, 6H), 1.12(d, 6H), 1.00 (t, 3H), 0.99 (t, 3H) ppm.

reactant | Phosphorus oxychloride | 0.51 mol, 78.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyclohexyl-diethylurea | 0.5 mol, 99 g | C1(CCCCC1)N(C(=O)NCC)CC | C11H22N2O
reactant | Diisopropylamine | 1.0 mol, 101 g | C(C)(C)NC(C)C | C6H15N
reactant | Sodium hydroxide | 3 mol, 120 g | [OH-].[Na+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
product | Cyclohexyl-diethyl-diisopropylguanidine | C1(CCCCC1)N=C(N(C(C)C)CC)N(C(C)C)CC | C17H35N3
